US07470699B2
Preparation of 4-[6-(2,4-Difluoro-phenoxy)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (Compound C117)
A mixture of 4-(6-chloro-5-methyl-pyrimidin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester (1.0 g, 3.19 mmol), 2,4-difluoro-phenol (585 mg, 4.5 mmol), and potassium carbonate (882 mg, 6.38 mmol) in DMF (11 mL) was heated under microwave irradiation for 80 min at 150° C. The crude mixture was concentrated in vacuo and purified by HPLC to provide Compound C117 as a beige solid (890 mg, 69%). 1H NMR (CDCl3, 400 MHz) δ 1.19 (d, 6H), 1.66-1.76 (m, 2H), 1.86-1.95 (m, 2H), 2.11 (s, 3H), 3.30-3.40 (m, 2H), 3.63-3.73 (m, 2H), 4.86 (m, 1H), 5.26 (m, 1H), 6.80-6.91 (m, 2H), 7.09 (q, 1H), 7.19 (s, 1H). Exact mass calculated for C20H23F2N3O4 407.41, found 408.3 (MH+).

reactant | 4-(6-chloro-5-methyl-pyrimidin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester | 3.19 mmol, 1.0 g | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)Cl | C14H20ClN3O3
reactant | 2,4-difluoro-phenol | 4.5 mmol, 585 mg | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | potassium carbonate | 6.38 mmol, 882 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 11 mL | CN(C)C=O | C3H7NO
product | 4-[6-(2,4-Difluoro-phenoxy)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 890 mg, 69% | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)OC1=C(C=C(C=C1)F)F | C20H23F2N3O4
